US07820673B2
42a) (2S)-2-((tert-butoxycarbonyl)amino)-3-((2-methoxyethyl)thio)-3-methylbutanoic acid
To a solution of D-penicillamine (2.98 g) and a 1 N aqueous sodium hydroxide solution (21 ml) in ethanol (20 ml) was added dropwise 2-methoxyethyl bromide (2.0 ml) while cooling to 0° C. The temperature of the mixture was elevated to room temperature, and mixed at room temperature for 15 hours. To the reaction mixture were added dropwise di-tert-butyl dicarbonate (5.1 ml) and a 1 N aqueous sodium hydroxide solution (22 ml), and mixed at room temperature for 15 hours. Ethanol was distilled off under reduced pressure, and then washed with diethyl ether. The aqueous layer was acidified with a 5% aqueous citric acid solution, and then extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound as a brown oil (6.3 g, quantitative).

reactant | D-penicillamine | 2.98 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | sodium hydroxide | 1 N, 21 ml | [OH-].[Na+]
reactant | 2-methoxyethyl bromide | 2.0 ml | COCCBr | C3H7BrO
reactant | di-tert-butyl dicarbonate | 5.1 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1 N, 22 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (2S)-2-((tert-butoxycarbonyl)amino)-3-((2-methoxyethyl)thio)-3-methylbutanoic acid | 6.3 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C(C)(C)SCCOC | C13H25NO5S
